US05001233
Preparation of 1,4-dihydroxy-2,2,6,6-tetramethyl-piperidine
In a 100 ml flask, a solution of 0.047 M DMD in acetone (21.2 ml, 1 mmol) was added to a cold stirred solution of 2,2,6,6-tetramethyl-4-piperidinol (0.1572 g, 1 mmol) in acetone (10 ml). The reaction mixture was stirred for two hours in an ice bath. Solvent was removed on a rotary evaporator to give a white crystalline solid (0.1727 g, 99% yield, mp 161-163). Sublimation on the Kugelrohr (110-120°, 1×10-4 mmHg) gave white needles (0.170 g). Measured mp was 162-163; reported mp is 155-159 (Lee et al 1975 and Rozantsey et al 1966).

reactant | 2,2,6,6-tetramethyl-4-piperidinol | 1 mmol, 0.1572 g | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | acetone | 10 ml | CC(=O)C | C3H6O
reactant | acetone | 1 mmol, 21.2 ml | CC(=O)C | C3H6O
product | 1,4-dihydroxy-2,2,6,6-tetramethyl-piperidine | 0.170 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
